US08012976B2
Synthesis of 9-(1-Ethyl-1H-imidazol-2-yl)-8-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(1-ethyl-1H-imidazol-2-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (90 mg, 0.22 mmol) in 85% hydrazine monohydrate (4 mL) and methanol (10 mL) was stirred for 4 h at room temperature. Methanol was removed under reduced pressure. The mixture was filtered and washed with water to give the crude product. The crude product was purified by prep-HPLC to give the title compound (38.5 mg, yield: 47%). 1H-NMR (400 MHz, MeOD) δ (ppm): 1.06-1.09 (t, J=7.2 Hz, 3H), 3.74-3.78 (m, 2H), 4.60-4.62 (d, J=11.6 Hz, 1H), 4.98-5.01 (d, J=11.6 Hz, 1H), 6.91-7.02 (m, 4H), 7.19-7.21 (m, 1H), 7.39-7.43 (m, 2H), 7.56-7.64 (m, 2H); LC-MS (ESI) m/z: 376 (M+1)+.

reactant | ethyl 3-(1-ethyl-1H-imidazol-2-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.22 mmol, 90 mg | C(C)N1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F | C23H22FN3O3
reactant | hydrazine monohydrate | 4 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 9-(1-Ethyl-1H-imidazol-2-yl)-8-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 38.5 mg, yield: 47% | C(C)N1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=C2)F | C21H18FN5O
